US08030340B2
5-Iodo-1-(2-pyridinyl)indazole
Cesiumcarbonate (29.86 g, 91.6 mmol) is added to a suspension of 2-fluoro-5-iodobenzaldehyde (11.45 g, 45.8 mmol) and 2-pyridylhydrazine (5 g, 45.8 mmol) in 230 mL N-methylpyrrolidon. The reaction mixture is stirred two hours at room temperature. After checking that the hydrazone has been formed (1H-NMR) the reaction mixture is heated for three hours at 150° C. The reaction mixture is allowed to cool down and the dark brown suspension is poured into ice water. After vigorously stirring at room temperature for 15 minutes the mixture is extracted with ethyl acetate. The organic phase is washed with brine, dried over Na2SO4, the solvent is removed i.vac., and the product purified by chromatography on silica gel. Yield 4.8 g (33%).

reactant | Cesiumcarbonate | 91.6 mmol, 29.86 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-fluoro-5-iodobenzaldehyde | 45.8 mmol, 11.45 g | FC1=C(C=O)C=C(C=C1)I | C7H4FIO
reactant | 2-pyridylhydrazine | 45.8 mmol, 5 g | N1=C(C=CC=C1)NN | C5H7N3
solvent | N-methylpyrrolidon | 230 mL | CN1C(CCC1)=O | C5H9NO
product | 5-Iodo-1-(2-pyridinyl)indazole | IC=1C=C2C=NN(C2=CC1)C1=NC=CC=C1 | C12H8IN3
